US04696941
(a) 1,8-Dihydroxy-10-acetylanthrone
To a solution of 56.5 g (0.25 mol) of purified anthralin in 1750 cm3 of anhydrous toluene being stirred at room temperature, 27.3 cm3 (0.34 mol) of anhydrous pyridine was added first and then 21.4 cm3 (0.3 mol) of acetyl chloride was added dropwise by means of a dropping funnel. Slight heating occurred during addition then, after the end of addition, the mixture was heated to a temperature of around 90° C. for 1 hour. The mixture was cooled and 27.3 cm3 of pyridine and then, dropwise, 21.4 cm3 of acetyl chloride were again added at 30°-35° C. The mixture was then stirred for 1 hour at 85°-90° C. After a check to insure that the anthralin had been transformed to the 10-acetyl derivative, the reaction mixture was cooled to room temperature then washed 3 times with water (250 cm3). The toluene phase was decanted, dried over sodium sulfate and then concentrated to around 300 cm3. The solution was then deposited on a column of silica gel and eluted with toluene and a 1:1 mixture of toluene and methylene chloride. The first fractions were combined and then concentrated under vacuum. The solid obtained was then recrystallized from toluene to yield 21 g of bright-yellow crystals of 1,8-dihydroxy-10-acetylanthrone having a melting point of 146° C.

reactant | anthralin | 0.25 mol, 56.5 g | C=1C=C2C(=C(C1)O)C(=O)C3=C(C=CC=C3O)C2 | C14H10O3
reactant | pyridine | 0.34 mol, 27.3 cm3 | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.3 mol, 21.4 cm3 | C(C)(=O)Cl | C2H3ClO
reactant | pyridine | 27.3 cm3 | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 21.4 cm3 | C(C)(=O)Cl | C2H3ClO
solvent | toluene | 1750 cm3 | C1(=CC=CC=C1)C | C7H8
product | 1,8-Dihydroxy-10-acetylanthrone | 21 g | OC1=CC=CC=2C(C3=CC=CC(=C3C(C12)=O)O)C(C)=O | C16H12O4
